US06110929
Triethylamine (11.46 mL) was added to a suspension of 3-amino-6-methylquinolin-4-ol hydrochloride in dichloromethane (400 mL). Butyryl chloride (4.46 mL) was added. The reaction mixture was heated on a steam bath for 30 minutes. The solution was diluted with sodium bicarbonate and then filtered. The filtrate was washed with bicarbonate and then concentrated under vacuum. The residue was recrystallized from isopropanol to provide 3-butyramido-6-methylquinolin-4-ol hemihydrate as a solid, m.p. 274-277° C. Analysis: Calculated for C14H16N2O2.1/2 H2O: % C, 66.39; % H, 6.76; % N, 11.06; Found: % C, 66.56; % H, 6.46; % N, 11.03.

reactant | Triethylamine | 11.46 mL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-6-methylquinolin-4-ol hydrochloride | Cl.NC=1C=NC2=CC=C(C=C2C1O)C
reactant | Butyryl chloride | 4.46 mL | C(CCC)(=O)Cl | C4H7ClO
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-butyramido-6-methylquinolin-4-ol hemihydrate | O.C(CCC)(=O)NC=1C=NC2=CC=C(C=C2C1O)C.C(CCC)(=O)NC=1C=NC2=CC=C(C=C2C1O)C | InChI=1S/2C14H16N2O2.H2O/c2*1-3-4-13(17)16-12-8-15-11-6-5-9(2)7-10(11)14(12)18;/h2*5-8H,3-4H2,1-2H3,(H,15,18)(H,16,17);1H2
